US04180509
p-Acetylaminophenol (15.1 g, 0.1 M) in dimethyl formamide (30 ml) containing potassium carbonate (1.36 g, 0.1 M) is treated with 2,4-dimethoxybenzyl chloride (1.86 g, 0.1 M). The mixture is then heated at 130° C. for 3 hours, then the solvent removed by evaporation under reduced pressure. The residue is treated with water, and the precipitate filtered off and recrystallized from ethanol to afford p-(2,4-dimethoxybenzyloxy)acetanilide.

reactant | p-Acetylaminophenol | 0.1 M, 15.1 g | C(C)(=O)NC1=CC=C(C=C1)O | C8H9NO2
reactant | potassium carbonate | 0.1 M, 1.36 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,4-dimethoxybenzyl chloride | 0.1 M, 1.86 g | COC1=C(CCl)C=CC(=C1)OC | C9H11ClO2
solvent | dimethyl formamide | 30 ml | CN(C=O)C | C3H7NO
product | p-(2,4-dimethoxybenzyloxy)acetanilide | COC1=C(COC2=CC=C(NC(C)=O)C=C2)C=CC(=C1)OC | C17H19NO4
